US07132426B2
Preparation of 4-[1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid cyclohexyl ester (Compound A63)
Carbonyldiimidizole (0.28 mmol, 46 mg), and cyclohexanol (0.28 mmol, 34 μL) were dissolved in DMF (2 mL) and stirred for 30 minutes at room temperature. Then, 1-(4-Methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride salt (0.16 mmol, 60 mg) and triethylamine (0.84 mmol, 118 μL) were added and continued to stir at 60° C. for 24 hours. The reaction mixture was quenched with water followed by an extraction with ethylacetate. Removal of organic solvents in vacuo and purification by HPLC provided compound A63 as a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 8.67 (s, 1H); 8.61 (d, 2H); 8.26 (s, 1H); 8.11 (d, 2H); 5.62 (h, 1H); 4.71 (h, 1H); 3.91 (m, 2H); 3.38 (m, 2H); 3.10 (s, 3H); 2.10 (m, 2H); 1.87 (m, 4H), 1.65 (m, 6H); 1.28 (m, 2H). LCMS (ESI), m/z 500.4 (MH+, 100%)

reactant | cyclohexanol | 0.28 mmol, 34 μL | C1(CCCCC1)O | C6H12O
reactant | 1-(4-Methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride salt | 0.16 mmol, 60 mg | Cl.CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2OC2CCNCC2
reactant | triethylamine | 0.84 mmol, 118 μL | C(C)N(CC)CC | C6H15N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid cyclohexyl ester | C1(CCCCC1)OC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)S(=O)(=O)C | C24H29N5O5S
